US07781431B2
A solution (0.1 M) of methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate in DMF at 0° C. was treated with NaH (1.5 eq., 60% dispersion in mineral oil), and the suspension was stirred at RT for 30 min then it was treated with 1-(2-chloroethyl)pyrrolidine (3 eq.). The mixture was heated to 80° C. for 16 h then it was quenched with ammonium chloride (saturated solution), basified with aqueous NaOH (1 N) and extracted with AcOEt. The combined organic phase was washed with brine and dried. Evaporation of the solvent gave a residue that was purified by flash chromatography on silica gel (5:95 MeOH/DCM) to afford methyl 6-cyclohexyl-5-phenyl-4-(2-pyrrolidin-1-ylethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate as a solid that was dissolved in MeOH. The resulting solution (0.06 M) was treated with aqueous NaOH (2 N solution, 16 eq.) then the mixture was heated to reflux for 2 h. After cooling down, the mixture was concentrated and the residue was purified by RP-HPLC (Conditions: Waters X-TERRA MS C18, 5 micron, 10×100 mm; flow: 5 mL/min; Gradient: A: H2O+0.05% TFA; B: MeCN+0.05% TFA; 60% A isocratic for 2 min, linear to 60% A in 3 min, linear to 50% in 2 min then linear to 40% A in 3 min) to afford the title compound (62%) as a solid.

reactant | methyl 6-cyclohexyl-5-phenyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.1 M | C1(CCCCC1)C=1C2=C(NC1C1=CC=CC=C1)C=C(S2)C(=O)OC | C20H21NO2S
reactant | NaH | 1.5 eq. | [H-].[Na+]
reactant | 1-(2-chloroethyl)pyrrolidine | 3 eq. | ClCCN1CCCC1 | C6H12ClN
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl 6-cyclohexyl-5-phenyl-4-(2-pyrrolidin-1-ylethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(N(C1C1=CC=CC=C1)CCN1CCCC1)C=C(S2)C(=O)OC | C26H32N2O2S
